US06194450B1
(b) Preparation of methyl 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-3-bromomethylbenzoate
A solution of methyl 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-3-methylbenzoate (3.73 g, 9.5 mmol), benzoyl peroxide (0.02 g) and N-bromosuccinimide (1.74 g, 9.8 mmol) in carbon tetrachloride (200 ml) was heated to reflux and irradiated with a 1000 W lamp for fifteen minutes. 300 ml of water and 150 ml of dichloromethane were added. After separation of the phases once settling had taken place, the organic phase was washed twice, with 250 ml of water, and dried over magnesium sulfate. After concentration on a rotary evaporator at 40° C. under vacuum, the product obtained was purified by flash chromatography (10% CH2Cl2, 90% heptane). Its properties were as follows:

reactant | methyl 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-3-methylbenzoate | 9.5 mmol, 3.73 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)COC1=C(C=C(C(=O)OC)C=C1)C)C | C25H30O4
reactant | benzoyl peroxide | 0.02 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 9.8 mmol, 1.74 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 300 ml | O | H2O
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | methyl 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-3-bromomethylbenzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)COC1=C(C=C(C(=O)OC)C=C1)CBr)C | C25H29BrO4
